US04410520
A solution of 3-amino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (8.0 g) and benzylpyruvic acid (18.0 g) in methanol (450 ml) was stirred at room temperature under nitrogen for 30 minutes. Sodium cyanoborohydride (4.5 g) was added, and the resulting solution stirred at room temperature for 48 hours. Concentrated hydrochloric acid (7 ml) was added dropwise during 10 minutes and stirring was maintained for an additional 1 hour. The reaction mixture was evaporated to dryness, dichloromethane (150 ml) was added, and the mixture stirred for 30 minutes. The solid was filtered off, stirred with water (100 ml) for 15 minutes, then filtered, washed with water (50 ml), and dried to give 3-(1-carboxy-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, m.p. 173°-175° as a mixture of isomers.

reactant | 3-amino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 8.0 g | NC1C(NC2=C(CC1)C=CC=C2)=O | C10H12N2O
reactant | benzylpyruvic acid | 18.0 g | C(C1=CC=CC=C1)CC(C(=O)O)=O | C10H10O3
reactant | Sodium cyanoborohydride | 4.5 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 7 ml | Cl | ClH
solvent | methanol | 450 ml | CO | CH4O
product | 3-(1-carboxy-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(=O)(O)C(CCC1=CC=CC=C1)NC1C(NC2=C(CC1)C=CC=C2)=O | C20H22N2O3
